US08211904B2
Step 1: Racemic Benzyl 2-methyl-4-oxo-3,4-dihydropyridine-1(2H)-carboxylate 11-2
4-methoxypyridine (796 g, 7.29 mole) was stirred in 8 L of anhydrous THF in a 20 L reactor. The reactor was cooled to −30° C., then methylmagnesium bromide (5.1 L, 7.29 mole) was added as a 1.4M solution in 3:1 toluene/THF was added via cannula one 800 mL bottle at a time with 800 mls added over a 5 min time period. After the addition was complete and the reaction temperature was −30° C., benzyl chloroformate (1244 g, 7.29 mole) was added dropwise over a 60 min period via addition funnel. The warmest temperature reached was 16° C. After addition was complete the reaction was warmed to 25° C. and stirred for 1.5 hrs. The reaction was cooled to 0° C. and quenched with 4.0 L of 2 N HCl. 4 L of MTBE and brine was added and the layers separated. The temperature was now 25° C. The aqueous phase was extracted with 2×2 L of MTBE. The combined organics were washed with brine and dried over Na2SO4, filtered and concentrated to give the crude oil. Chromatography using a Varian Metaflash 150 long (15 cm×60 cm long 5 kilo silica) and eluting with 10-35% EtOAc/Heptanes gave the product as an oil.

reactant | 4-methoxypyridine | 7.29 mole, 796 g | COC1=CC=NC=C1 | C6H7NO
reactant | methylmagnesium bromide | 7.29 mole, 5.1 L | C[Mg]Br
reactant | toluene THF | C1(=CC=CC=C1)C.C1CCOC1
reactant | benzyl chloroformate | 7.29 mole, 1244 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | THF | 8 L | C1CCOC1 | C4H8O
product | Racemic Benzyl 2-methyl-4-oxo-3,4-dihydropyridine-1(2H)-carboxylate | CC1N(C=CC(C1)=O)C(=O)OCC1=CC=CC=C1 | C14H15NO3
